US09238652B2
Synthesis of 2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enecarbaldehyde (Compound (G))
To a 250 mL pressure bottle were charged 2-chloro-4,4-dimethylcyclohex-1-enecarbaldehyde (10.00 g), tetrabutylammonium bromide (18.67 g), and acetonitrile (10 mL). The mixture was stirred at 20° C. for 5 min. 21.0 wt % K2CO3 aq. solution (76.0 g) was added. The mixture was stirred at room temperature (rt) for NLT 5 min. followed by addition of 4-chlorophenylboronic acid (9.53 g) all at once. The mixture was evacuated and purged with N2 for three times. Palladium acetate (66 mg, 0.5 mol %) was added all at once under N2. The reaction mixture was evacuated and purged with N2 for three times (an orange colored mixture). The bottle was back filled with N2 and heated to ˜35° C. in an oil bath (bath temp ˜35° C.). The mixture was stirred at 30° C. overnight (15 hours). The reaction mixture was cooled to RT, and pulled IP sample from the upper organic phase for reaction completion, typically starting material <2% (orange colored mixture). Toluene (100 mL) and 5% NaHCO3-2% L-Cysteine aq. solution (100 mL) were added. The mixture was stirred at 20° C. for 60 min. The mixture was filtered through a pad of Celite to remove black solid, rinsing the flask and pad with toluene (10 mL). The upper organic phase was washed with 5% NaHCO3 aq. solution-2% L-Cysteine (100 mL) once more. The upper organic phase was washed with 25% brine (100 mL). The organic layer (105.0 g) was assayed (118.8 mg/g, 12.47 g product assayed, 87% assayed yield), and concentrated to ˜1/3 volume (˜35 mL). The product solution was directly used in the next step without isolation. However, an analytical sample was obtained by removal of solvent to give a brown oil. 1HNMR (CDCl3): δ 1.00 (s, 6H), 1.49 (t, J=6.6 Hz, 2H), 2.28 (t, J=2.1 Hz, 2H), 2.38 (m, 2H), 7.13 (m, 2H), 7.34 (m, 2H), 9.47 (s, 1H).

reactant | 2-chloro-4,4-dimethylcyclohex-1-enecarbaldehyde | 10.00 g | ClC1=C(CCC(C1)(C)C)C=O | C9H13ClO
reactant | K2CO3 | 76.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorophenylboronic acid | 9.53 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 18.67 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enecarbaldehyde | 12.47 g | ClC1=CC=C(C=C1)C1=C(CCC(C1)(C)C)C=O | C15H17ClO
